US07935815B2
(2) Synthesis of 2-(4-bromophenyl)-N-{3-[1-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]-(E)-methylidene]-2-oxopiperidin-1-yl}acetamide
EDC (109 mg), HOBT (76.9 mg) and IPEA (408 μL) were added to a mixture of 4-bromophenylacetic acid (102 mg), 5-chloro-2-[1-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]-(E)-methylidene]-pentanoic acid hydrazide (200 mg) and DMF (4 mL), and the reaction solution was stirred at room temperature for 14 hours. The reaction solution was heated to 80° C. and stirred for two hours. The reaction solution was brought to room temperature. A saturated sodium bicarbonate solution was added, followed by separatory extraction with ethyl acetate. The organic layer was dried over magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel chromatography (carrier: Chromatorex NH; elution solvent: heptane:ethyl acetate=1:1→ethyl acetate→ethyl acetate:methanol=8:1) to obtain the title compound (111 mg). The property value of the compound is as follows.

reactant | HOBT | 76.9 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | IPEA | 408 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-bromophenylacetic acid | 102 mg | BrC1=CC=C(C=C1)CC(=O)O | C8H7BrO2
reactant | 5-chloro-2-[1-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]-(E)-methylidene]-pentanoic acid hydrazide | 200 mg | ClCCC\C(\C(=O)NN)=C/C1=CC(=C(C=C1)N1C=NC(=C1)C)OC | C17H21ClN4O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | EDC | 109 mg
product | 2-(4-bromophenyl)-N-{3-[1-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]-(E)-methylidene]-2-oxopiperidin-1-yl}acetamide | 111 mg | BrC1=CC=C(C=C1)CC(=O)NN1C(/C(/CCC1)=C/C1=CC(=C(C=C1)N1C=NC(=C1)C)OC)=O | C25H25BrN4O3
